US05180735
As in Example 54, 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-methylthiomethyl-1,4-cyclohexanediol (200 mg) was allowed to react with 2-bromobenzyl bromide (1.51 g) to give 1-(2-bromobenzyl)methylsulfoniomethyl-2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1,4-cyclohexanediol bromide (29 mg: yield 8%) as colorless powder.

reactant | 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-methylthiomethyl-1,4-cyclohexanediol | 200 mg | O1C(C1CC=C(C)C)(C)C1C(CCC(C1OC)O)(O)CSC | C17H30O4S
reactant | 2-bromobenzyl bromide | 1.51 g | BrC1=C(CBr)C=CC=C1 | C7H6Br2
product | 1-(2-bromobenzyl)methylsulfoniomethyl-2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1,4-cyclohexanediol bromide | 29 mg, yield 8% | [Br-].BrC1=C(CC[SH+]CC2(C(C(C(CC2)O)OC)C2(C(CC=C(C)C)O2)C)O)C=CC=C1 | InChI=1S/C24H35BrO4S.BrH/c1-16(2)9-10-20-23(3,29-20)22-21(28-4)19(26)11-13-24(22,27)15-30-14-12-17-7-5-6-8-18(17)25;/h5-9,19-22,26-27H,10-15H2,1-4H3;1H
